US06297375B1
a) N-(3,5-Bis trifluoromethyl-benzyl)-N-cyclopropyl-4-o-tolyl-nicotinamide
A solution of 106 mg (0.5 mmol) 4-o-tolyl-nicotinic acid in 5 ml dichloromethane and 2 drops N,N-dimethylformamide was stirred with 0.1 ml (1.4 mmol) thionyl chloride for 1.5 h at room temperature. The solvent was removed and the residue was taken up in 5 ml dichloromethane and 0.3 ml triethylamine. After the addition of 155 mg (0.55 mmol) (3,5-bis-trifluoromethyl-benzyl)-cyclopropyl-amine the mixture was stirred at room temperature for 1 h and washed twice with water. The organic layer was dried (magnesium sulfate) and evaporated. The crude oil was subjected to column chromatography to give 140 mg (58%) of the title compound as an oil.

reactant | 4-o-tolyl-nicotinic acid | 0.5 mmol, 106 mg | C1(=C(C=CC=C1)C1=CC=NC=C1C(=O)O)C | C13H11NO2
reactant | thionyl chloride | 1.4 mmol, 0.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (3,5-bis-trifluoromethyl-benzyl)-cyclopropyl-amine | 0.55 mmol, 155 mg | FC(C=1C=C(CNC2CC2)C=C(C1)C(F)(F)F)(F)F | C12H11F6N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | N-(3,5-Bis trifluoromethyl-benzyl)-N-cyclopropyl-4-o-tolyl-nicotinamide | 140 mg, 58% | FC(C=1C=C(CN(C(C2=CN=CC=C2C2=C(C=CC=C2)C)=O)C2CC2)C=C(C1)C(F)(F)F)(F)F | C25H20F6N2O
